US04863935
N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine (300 mg) and 4-benzylpiperidine (327 μl) were subjected to similar reactions to those described in References 2 and 4 to give 2-(4-benzylpiperidino)carbonylthioethylamine (crude formate: 210 mg). The product was dissolved in anhydrous methanol (3.5 ml). Triethylamine (432 μl) and mitocyin A (151 mg: 0.7 molar equivalent) were added to the solution which was then treated in a similar manner to that described in Example 1 to obtain Compound 41 (300 mg) in the form of grayish blue powders with a yield of 81%.

reactant | N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine | 300 mg | C1(=CC=CC=C1)C(NCCSC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O4S
reactant | 4-benzylpiperidine | 327 μl | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | 2-(4-benzylpiperidino)carbonylthioethylamine | 210 mg | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)SCCN | C15H22N2OS
